US05419893
1,13-Bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane 1,5-Diamino-1,5-dibenzyloxymethyl-3-azapentane (0.50 g, 1.5 mmol) was dissolved in methanol (20 ml). 3-Benzyloxypropanal (0.50 q, 3 mmol), sodium cyanoborohydride (0.11 g, 3 mmol) and 3 Å molecular sieve (10 g) were added and the mixture was stirred for 16 hours at ambient temperature. The reaction mixture was filtered, water (20 ml) was added and the mixture was acidified with hydrochloric acid to pH 3. The mixture was extracted with diethyl ether (2×25 ml), the ether solution was dried with magnesium sulphate, the solution was evaporated and the mixture was chromatographed on silica. 1,13-Bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane was isolated as a white solid. Yield 0.40 g (42%), FAB MS: 640(M+1). The structure was confirmed by 1H NMR and 13C NMR.

reactant | 1,13-Bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane 1,5-Diamino-1,5-dibenzyloxymethyl-3-azapentane | 1.5 mmol, 0.50 g | NC(CNCC(COCC1=CC=CC=C1)N)COCC1=CC=CC=C1.C(C1=CC=CC=C1)OCCCNC(CNCC(NCCCOCC1=CC=CC=C1)COCC1=CC=CC=C1)COCC1=CC=CC=C1
reactant | 3-Benzyloxypropanal | 3 mmol | C(C1=CC=CC=C1)OCCC=O | C10H12O2
reactant | sodium cyanoborohydride | 3 mmol, 0.11 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1,13-Bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane | C(C1=CC=CC=C1)OCCCNC(CNCC(NCCCOCC1=CC=CC=C1)COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C40H53N3O4
